US04847182
67 liters of d-limonene (4-isopropenyl-1-methylcylohexene)
Photopolymer plates based on a terpolymer of butadiene, acrylonitrile, and acrylic acid were processed as in Example 1 with this solvent. Wash time for this type plate in this solution was 18 minutes. Again the plate quality was superior to that obtained with perchloroethylene under the same conditions. No phasing of this solution was observed.

reactant | butadiene | C=CC=C | C4H6
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | d-limonene | CC1=CC[C@@H](CC1)C(=C)C | C10H16
